US04287118
Sodium antimonate obtained from U.S. Antimony Corporation (19.2 g, 0.0476 mole) was placed in a reaction vessel and isooctyl thioglycolate from Evans Chemetics, Inc. (97.08 g, 0.4759 mole) added and stirred. Concentrated hydrochloric acid from Fisher Scientific Co. (9.5 ML, 0.0952 mole) was added dropwise and an immediate temperature increase of 12° C. was observed. The mixture was heated and the byproduct, water, was distilled over at 97° C. and collected. After 3.5 hours, a 93% yield of antimony (V) isooctyl thioglycolate was obtained. The resultant product was filtered to remove unreacted sodium antimonate and the additional byproduct of the reaction, sodium chloride. The product was then vacuum distilled at 3 mm Hg and a temperature range of 24°-100° C. to remove any unreacted isooctyl thioglycolate.

reactant | Sodium antimonate | [Sb]([O-])([O-])([O-])=O.[Na+].[Na+].[Na+]
reactant | Antimony | [Sb] | Sb
reactant | isooctyl thioglycolate | C(CS)(=O)OCCCCCC(C)C | C10H20O2S
reactant | hydrochloric acid | Cl | ClH
product | antimony (V) isooctyl thioglycolate | 93% yield | C(CS)(=O)OCCCCCC(C)C.[Sb+5] | InChI=1S/C10H20O2S.Sb/c1-9(2)6-4-3-5-7-12-10(11)8-13;/h9,13H,3-8H2,1-2H3;/q;+5
